Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
scrotal pain and swelling
 
Major Surgical or Invasive Procedure:
scrotal bedside I&D
 
History of Present Illness:
This is a ___ yo M with PMH of cerebral aneurysm, COPD, DVT/PE on 
Xarelto, and HTN who presents with ___ weeks of progressive 
scrotal pain and swelling. Yesterday, he began having radiating 
pain from his scrotum to his L-suprapubic area, fever, chills, 
nausea and vomiting prompting him to seek medical attention. 
Interestingly, he has been incarcerated throughout the entire 
time course but felt "embarrassed" to let anyone in the 
___ facility know. He reports having a similar 
presentation about ___ years ago for which he was dx with a 
scrotal infection and given PO antibiotics with complete 
resolution.

He initially presented to an OSH but was transferred for urology 
consultation after U/S revealed a 4.9 cm scrotal abscess. CT 
scrotum performed at OSH. Results pending at time of transfer. 
He received vancomycin and Zosyn prior to transfer. In ED, pt 
was noted to be hemodynamically stable and afebrile. Labs 
revealed WBC 11.9 (down from 14 at OSH). Urology was consulted 
and performed a bedside scrotal I&D w/ resultant 10mL of 
purulent material that was sent for culture. Medicine was 
contacted for admission for IV antibiotics and close monitoring.
 
Past Medical History:
ruptured cerebral aneurysm s/p clipping ___
pneumonia
COPD
hypertension
seizure disorder (? EtOH related)
DVT/PE, presumed provoked - dx 8 months ago
alcohol dependence
 
Social History:
___
Family History:
father - HTN, CAD, DM
mother - DM
 
Physical ___:
Vitals: 97.8 PO 97 / 64 L Lying 69 18 94 Ra 
Gen: Lying in bed in no apparent distress, awake and alert, 
shackled to the bed with 2 officers present
HEENT: AT, NC, PERRL, EOMI, MMM, hearing grossly intact
CV: S1, S2, RRR no M/R/G
Pulm: CTA b/l, no wheeze, rhonchi, or rales
GI: (+) BS, soft, obese, groin and l-sided suprapubic 
tenderness, ND, no HSM 
MSK: no edema
GU: L-sided scrotal edema, erythema, and tenderness with 1 cm 
opening with packing
Skin: No rashes or ulcerations evident
Neuro: A+O x4, speech fluent, face symmetric, moving all
extremities
Psych: calm mood, appropriate affect

 
Pertinent Results:
___ 04:35AM BLOOD WBC-11.9* RBC-3.94* Hgb-12.4* Hct-35.8* 
MCV-91 MCH-31.5 MCHC-34.6 RDW-12.5 RDWSD-41.2 Plt ___
___ 04:35AM BLOOD Neuts-61.0 ___ Monos-7.5 Eos-4.1 
Baso-0.8 Im ___ AbsNeut-7.28* AbsLymp-3.08 AbsMono-0.90* 
AbsEos-0.49 AbsBaso-0.09*
___ 04:35AM BLOOD Plt ___
___ 04:35AM BLOOD ___ PTT-27.1 ___
___ 04:35AM BLOOD Glucose-109* UreaN-8 Creat-0.8 Na-135 
K-4.0 Cl-99 HCO3-21* AnGap-19

Scrotal US and Doppler (performed at ___
IMPRESSION: Complex fluid collection lateral to the right testis
with overlying thickening of the scrotal skin. The appearance is
consistent with a probable scrotal abscess. Resolving hematoma
less likely.

CT AP (performed at ___:
IMPRESSION: Right scrotal abscess with associated right inguinal
adenopathy.

DISCHARGE LABS: 

___ 08:15AM BLOOD WBC-7.4 RBC-3.80* Hgb-11.7* Hct-34.3* 
MCV-90 MCH-30.8 MCHC-34.1 RDW-12.3 RDWSD-39.9 Plt ___
___ 08:15AM BLOOD Glucose-109* UreaN-11 Creat-0.6 Na-135 
K-4.1 Cl-99 HCO3-24 AnGap-16
 
Brief Hospital Course:
#Scrotal abscess:
___ weeks of progressive worsening of L-sided scrotal pain and 
swelling with acute onset of N/V, F/C/NS over the past 24 hours. 
Seen at an OSH and was found to have WBC 14 and scrotal U/S 
showing 4.9 cm fluid collection c/w abscess. CTAP showed R 
scrotal abscess and R inguinal lymphadenopathy. S/p scrotal I&D 
by urology. Abscess fluid, blood, and urine were sent for 
culture but there was no growth. Given he is incarcerated he was 
deemed high risk for MRSA infection. Received vancomycin ___ - 
___ transitioned to Bactrim ___ - ) and levofloxacin ___ - ). 
He received morphine and oxycodone for the pain and dressing 
changes. These medications were eventually transitioned to 
tramadol and ibuprofen which he should continue as an 
outpatient. 
Plan: 
- continue wet to dry dressing with packing once daily 
- continue levofloxacin and Bactrim DS for a total of 7 more 
days to complete a 10-day course

#DVT/PE - provoked, 8 months ago
Diagnosed after prolonged hospital stay of 3 weeks for PNA about 
8 months ago. Was told he would require 6 month total of 
treatment. I spoke to his PCP, ___ confirmed pt had 
completed his course of anticoagulation and thus Xarelto could 
be discontinued. 

#Seizure disorder 
Related to alcohol-withdrawal syndrome. Dr. ___ like 
the patient to continue taking Keppra until he is seen in the 
office. He should follow-up with his PCP once released from 
jail.

Mr. ___ is free from a medical perspective to resume all 
normal activities, including returning to his work duties.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 500 mg PO BID 
2. Rivaroxaban 15 mg PO DAILY 
3. Atenolol 100 mg PO BID 
4. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*21 Tablet Refills:*0 
2.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth daily 
Disp #*7 Tablet Refills:*0 
3.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*28 Tablet Refills:*0 
4.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0 
5.  Atenolol 100 mg PO BID  
6.  LevETIRAcetam 500 mg PO BID  
7.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
scrotal abscess

 
Discharge Condition:
condition: good
mental status: intact, at baseline
ambulatory status: independent

 
Discharge Instructions:
You were admitted to the hospital for scrotal swelling and pain. 
You were found to have a scrotal abscess. Urology was consulted 
and performed an incision and drainage. You were placed on 
antibiotics and your symptoms improved. The cultures taken from 
the abscess were not helpful. You are being discharged on 2 
antibiotics to cover the most common bacteria known to cause 
this type of infection. You will need to continue having your 
dressing change and packing performed once daily until the wound 
heals. This can be performed by the healthcare provider at the 
jail.
 
Followup Instructions:
___